data/mechanism_extracts/EurJOC/10.1002_ejoc.202200977.json
{"doi": "10.1002_ejoc.202200977", "journal": "EurJOC", "is_review": false, "rxn_class_summary": "Electrochemical iron-catalyzed azidoesterification of alkenes using carbazates as alkoxycarbonyl radical precursors and TMSN3 as the azide source to give beta-azido esters.", "mechanism_family": ["radical_anodic", "electrocatalysis_inner_sphere", "mediator_anodic"], "electrochemical_role": "Anodic oxidation of PcFe(II) to PcFe(III), which oxidizes methyl carbazate to generate the methoxycarbonyl radical (with loss of N2); a second metal-azide complex (Fe or Mn) delivers N3 to the alkyl radical after C-C bond formation.", "key_intermediates": [{"name": "PcFe(III) catalyst (anodically generated oxidant)", "smiles": null, "role": "reactive"}, {"name": "PcFe(II) resting state", "smiles": null, "role": "resting_state"}, {"name": "Methoxycarbonyl radical (III)", "smiles": "[CH2]OC(=O)[O]", "role": "transient"}, {"name": "beta-(alkoxycarbonyl) carbon-centered radical (I) after addition to alkene", "smiles": null, "role": "reactive"}, {"name": "M(III)-N3 azido metal complex (M = Fe or Mn)", "smiles": null, "role": "reactive"}, {"name": "M(II)-N3 complex after azide group transfer", "smiles": null, "role": "transient"}], "electron_flow": "Anode oxidizes PcFe(II) to PcFe(III), which oxidizes methyl carbazate to give methoxycarbonyl radical (releasing N2); this C-radical adds to the alkene to form a secondary C-radical that is trapped by an azido-M(III) complex via inner-sphere azide group transfer, regenerating M(II). Protons are reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "(1-phenyl-2-methylcyclopropyl)methylene alkene (radical clock 29)", "smiles": null, "purpose": "radical_clock", "observation": "Ring-opened product 30 obtained in 53% yield (E/Z = 2.5:1), consistent with a carbon-centered radical intermediate after addition."}, {"name": "Cyclic voltammetry of TMSN3, methyl carbazate (1), PcFe, and MnBr2", "smiles": null, "purpose": "redox_probe", "observation": "Methyl carbazate oxidizes at 670 mV and TMSN3 at 340 mV; addition of PcFe to TMSN3 gives a new wave at ca. 160 mV (Fe(II)/Fe(III) with azide as ligand); this wave increases with added carbazate indicating redox communication between Fe(III) and 1. MnBr2 does not show analogous behavior."}, {"name": "Controlled potential electrolysis at Eanode = 0.10 V vs Fc+/0", "smiles": null, "purpose": "redox_probe", "observation": "Azidoesterification of 4-tBu-styrene proceeded smoothly to give product 3 in 64% yield, confirming low-potential Fe-mediated oxidation is sufficient."}], "evidence_types_used": ["radical_clock", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Two metal catalysts are used cooperatively: PcFe is proposed as the redox-active mediator that oxidizes the carbazate to the alkoxycarbonyl radical, while MnBr2·4H2O (or PcMn in some cases) is invoked as the azide-delivery metal (M(III)-N3 -> M(II)). Mn alone is not catalytically competent (Table 1, entry 3). Cathode reaction is H2 evolution."}
